US06451810B1
N,N-Dimethylformamide (1 mL) was slowly added to a solution of oxalyl chloride (0.13 g, 1 mmol) in chloroform (5 mL). 6-Morpholinonicotinic acid (0.21 g, 1 mmol) was added and the reaction mixture was stirred for 15 minutes. The reaction mixture was concentrated under vacuum, diluted with toluene and then concentrated under vacuum to provide 6-morpholinonicotinoyl chloride. This material was kept under vacuum at ambient temperature overnight and then used in the next step.

reactant | N,N-Dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1 mmol, 0.13 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-Morpholinonicotinic acid | 1 mmol, 0.21 g | O1CCN(CC1)C1=NC=C(C(=O)O)C=C1 | C10H12N2O3
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 6-morpholinonicotinoyl chloride | O1CCN(CC1)C1=NC=C(C(=O)Cl)C=C1 | C10H11ClN2O2
